US08133886B2
6-(6-Methoxymethyl-pyrimidin-4-yloxy)-naphthalene-1-carboxylic acid (4-methyl-3-trifluoromethyl-phenyl)-amide
In a dried vessel, 68 mg (0.388 mMol) 5-amino-2-methylbenzotrifluoride are dissolved in 7 ml toluene and cooled in an ice bath. Then 580 μl Me3Al (2 M in toluene; 1.16 mMol) are added via syringe. After 1 h at rt, a solution of 126 mg (0.388 mMol) 6-(6-methoxymethyl-pyrimidin-4-yloxy)-naphthalene-1-carboxylic acid methyl ester in 1.5 ml THF is added and the solution is stirred for ½ h in an oil bath of 110° C. The solution is cooled in an ice bath and hydrolyzed with 13 ml of a sat. NH4Cl solution. After 15 min stirring, the mixture is diluted with EtOAc and water, the aq. phase separated off and extracted twice with EtOAc. The organic layers are washed with water and brine, dried (Na2SO4) and concentrated. Chromatography (Combi Flash; CH2Cl2/acetone 99:1→19:1) and crystallization from DIPE/hexane gives the title compound: m.p.: 188° C.; Anal.: C, H, N, F; MS: [M+1]+=468; TLC (CH2Cl2/acetone 9:1): Rf=0.32; 1H-NMR (DMSO-d6): δ ppm 10.85 (s, HN), 8.69 (s, 1H), 8.28 (d, 1H), 8.24 (s, 1H), 8.10 (d, 1H), 7.93 (d, 1H), 7.90 (s, 1H), 7.80 (d, 1H), 7.66 (t, 1H), 7.48 (d, 1H), 7.44 (d, 1H), 7.07 (s, 1H), 4.50 (s, H2C), 3.4 (s, H3C), 2.43 (s, H3C).

reactant | 5-amino-2-methylbenzotrifluoride | 0.388 mMol, 68 mg | NC=1C=CC(=C(C1)C(F)(F)F)C | C8H8F3N
reactant | Me3Al | 1.16 mMol, 2 M, 580 μl | C[Al](C)C
reactant | 6-(6-methoxymethyl-pyrimidin-4-yloxy)-naphthalene-1-carboxylic acid methyl ester | 0.388 mMol, 126 mg | COC(=O)C1=CC=CC2=CC(=CC=C12)OC1=NC=NC(=C1)COC | C18H16N2O4
reactant | NH4Cl | 13 ml | [NH4+].[Cl-]
solvent | toluene | 7 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 6-(6-Methoxymethyl-pyrimidin-4-yloxy)-naphthalene-1-carboxylic acid (4-methyl-3-trifluoromethyl-phenyl)-amide | CC1=C(C=C(C=C1)NC(=O)C1=CC=CC2=CC(=CC=C12)OC1=NC=NC(=C1)COC)C(F)(F)F | C25H20F3N3O3
